US09388161B2
A 100-mL round-bottom flask was charged with 1-cyclopropyl-4-iodo-1H-pyrazol-5-amine (0.250 g, 1.00 mmol), N,N-diisopropylamine (0.52 mL, 2.99 mmol) and dichloromethane (8 mL), and the solution was cooled to 0° C. A solution of acetyl chloride (0.085 mL, 1.19 mmol) in dichloromethane (2 mL) was added dropwise, and the resulting solution stirred for 1 h at 0° C. The reaction mixture was concentrated under vacuum, and the residue was purified via column chromatography on silica gel (gradient elution with 0.5-50% ethyl acetate/petroleum ether) to afford N-(1-cyclopropyl-4-iodo-1H-pyrazol-5-yl)acetamide (0.300 g, 92%) as yellow oil. MS (ESI, pos. ion) m/z 292 [M+H]+.

reactant | 1-cyclopropyl-4-iodo-1H-pyrazol-5-amine | 1.00 mmol, 0.250 g | C1(CC1)N1N=CC(=C1N)I | C6H8IN3
reactant | N,N-diisopropylamine | 2.99 mmol, 0.52 mL | C(C)(C)NC(C)C | C6H15N
reactant | acetyl chloride | 1.19 mmol, 0.085 mL | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | N-(1-cyclopropyl-4-iodo-1H-pyrazol-5-yl)acetamide | 0.300 g, 92% | C1(CC1)N1N=CC(=C1NC(C)=O)I | C8H10IN3O
